US09212187B2
Synthesis of N-methyl-N-(2-{[3-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yloxy)propyl]pyridin-4-ylmethylamino}ethyl)benzamide dihydrochloride
Benzoyl chloride(0.14 ml) was added to a dichloromethane solution (10 ml) of 6-{3-[(2-methylaminoethyl)pyridin-4-ylmethylamino]propoxy}-3,4-dihydro-2H-isoquinolin-1-one trihydrochloride(382 mg), and triethylamine(0.56 ml) under ice cooling. The mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using dichloromethane. The organic layer was dried with anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=10:1→4:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(0.28 ml) was added to an ethyl acetate solution (10 ml) of the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(242 mg) as a white powder.

reactant | Benzoyl chloride | 0.14 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 6-{3-[(2-methylaminoethyl)pyridin-4-ylmethylamino]propoxy}-3,4-dihydro-2H-isoquinolin-1-one trihydrochloride | 382 mg | Cl.Cl.Cl.CNCCN(CCCOC=1C=C2CCNC(C2=CC1)=O)CC1=CC=NC=C1
reactant | hydrogen chloride ethyl acetate | 0.28 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-(2-{[3-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yloxy)propyl]pyridin-4-ylmethylamino}ethyl)benzamide dihydrochloride | 242 mg | Cl.Cl.CN(C(C1=CC=CC=C1)=O)CCN(CC1=CC=NC=C1)CCCOC=1C=C2CCNC(C2=CC1)=O | InChI=1S/C28H32N4O3.2ClH/c1-31(28(34)23-6-3-2-4-7-23)17-18-32(21-22-10-13-29-14-11-22)16-5-19-35-25-8-9-26-24(20-25)12-15-30-27(26)33;;/h2-4,6-11,13-14,20H,5,12,15-19,21H2,1H3,(H,30,33);2*1H
